US07713969B2
3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-(4-methoxyphenyl)-1H-indol-3-yl)pyrrole-2,5-dione, prepared as in Example 33, was reduced with Mg in methanol as described in Example 2, Procedure C, to yield (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-(4-methoxyphenyl)-1H-indol-3-yl)pyrrolidine-2,5-dione. 1H NMR (CD3OD) δ: 2.03-2.22(m, 2H), 2.98(t, J=6.0 Hz, 2H), 3.80(s, 3H), 3.97-4.06(m, 1H), 4.06-4.14(m, 1H), 4.38(d, J=6.8 Hz, 1H), 4.67(d, J=6.8 Hz, 1H), 6.86(d, J=8.4 Hz, 2H), 6.91-7.00(m, 2H), 7.08(s, 2H), 7.17-7.27(m, 4H), 7.31(d, J=8.4 Hz, 1H), 7.37(d, J=8.8 Hz, 1H).

reactant | 3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-(4-methoxyphenyl)-1H-indol-3-yl)pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC=C(C=C23)C2=CC=C(C=C2)OC)=O)=O | C30H23N3O3
solvent | methanol | CO | CH4O
product | (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-(4-methoxyphenyl)-1H-indol-3-yl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CNC3=CC=C(C=C23)C2=CC=C(C=C2)OC)=O)=O | C30H25N3O3
